US04436726
tert-Butyl 3-hydroxyoctanoate (324 mg) was dissolved in pyridine (10 ml) and hexanoic anhydride (1.6 g) was added thereto. The resulting mixture was heated at 80° C. for 5 hours. To the cooled solution was added water and the mixture was stirred for 30 minutes, and then poured into water. The mixture was acidified with 1 N hydrochloric acid, extracted with ethyl acetate, washed with saturated, aqueous sodium hydrogen carbonate solution and brine, and then dried over magnesium sulfate. Evaporation of ethyl acetate gave a residue, which was purified by column chromatography on silica gel (Merck), and eluted with a mixture of cyclohexane and ethyl acetate (50:1). The fractions containing the object compound were combined and concentrated, and the residue was dried by high vacuum pump to afford an oil of tert-butyl 3-hexanoyloxyoctanoate (457 mg).

reactant | tert-Butyl 3-hydroxyoctanoate | 324 mg | OC(CC(=O)OC(C)(C)C)CCCCC | C12H24O3
reactant | hexanoic anhydride | 1.6 g | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl 3-hexanoyloxyoctanoate | 457 mg | C(CCCCC)(=O)OC(CC(=O)OC(C)(C)C)CCCCC | C18H34O4
